US08389508B2
To a solution of methyl 1-{2-[3-(2-{3-cyano-4-[(1-methylethyl)oxy]phenyl}-1,3-thiazol-5-yl)-2-ethylphenyl]ethyl}-3-azetidinecarboxylate (D83) (188 mg) in isopropanol (40 mL) and water (10 mL) stirred under nitrogen at room temperature was added a solution of NaOH (30.7 mg) in water in one charge. The reaction mixture was stirred at room temperature overnight. Isopropanol was removed in vacuo. The residue was dissolved in water and acidified with 1N HCl to pH=5. The solvent was removed in vacuo, the residue was dissolved in THF, and filtered. The filtrate was purified by Mass Directed AutoPrep to give 1-{2-[3-(2-{3-cyano-4-[(1-methylethyl)oxy]phenyl}-1,3-thiazol-5-yl)-2-ethylphenyl]ethyl}-3-azetidinecarboxylic acid (E34) (14 mg) as a TFA salt (white solid). δH (DMSO-d6, 400 MHz): 1.07 (3H, t), 1.36 (6H, d), 2.69 (2H, m), 2.87 (2H, m), 3.59 (3H, m), 4.28 (4H, m), 4.90 (1H, m), 7.30 (2H, m), 7.37 (1H, m), 7.44 (1H, d), 7.85 (1H, s), 8.22 (1H, dd), 8.27 (1H, d), 9.98 (1H, br s), 13.19 (1H, br s). δF (DMSO-d6, 376 MHz): −73.5. MS (ES): C27H29N3O3S requires 475. found 476.2 (M+H+).

reactant | methyl 1-{2-[3-(2-{3-cyano-4-[(1-methylethyl)oxy]phenyl}-1,3-thiazol-5-yl)-2-ethylphenyl]ethyl}-3-azetidinecarboxylate | 188 mg | C(#N)C=1C=C(C=CC1OC(C)C)C=1SC(=CN1)C=1C(=C(C=CC1)CCN1CC(C1)C(=O)OC)CC | C28H31N3O3S
reactant | NaOH | 30.7 mg | [OH-].[Na+]
solvent | isopropanol | 40 mL | C(C)(C)O | C3H8O
solvent | water | 10 mL | O | H2O
product | 1-{2-[3-(2-{3-cyano-4-[(1-methylethyl)oxy]phenyl}-1,3-thiazol-5-yl)-2-ethylphenyl]ethyl}-3-azetidinecarboxylic acid | 14 mg | C(#N)C=1C=C(C=CC1OC(C)C)C=1SC(=CN1)C=1C(=C(C=CC1)CCN1CC(C1)C(=O)O)CC | C27H29N3O3S
